US07300935B2
Production of 2-amino-3-methoxy-6-methylpyridine
To a solution of 3-methoxy-6-methyl-2-nitropyridine (3.85 g) in ethanol (91.6 ml) was added 10% palladium-carbon (50% wet, 0.96 g), and the mixture was stirred under hydrogen atmosphere for 2 hours. The catalyst was filtered off, and the filtrate was concentrated to dryness. The residue was recrystallized from ethyl acetate/hexane to give the title compound (2.89 g).

reactant | 3-methoxy-6-methyl-2-nitropyridine | 3.85 g | COC=1C(=NC(=CC1)C)[N+](=O)[O-] | C7H8N2O3
solvent | ethanol | 91.6 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.96 g | [C].[Pd]
product | 2-amino-3-methoxy-6-methylpyridine | 2.89 g | NC1=NC(=CC=C1OC)C | C7H10N2O
